*BZX55C27 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*27V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX55C27 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  26.43
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=32.6P VJ=1 M=0.33 TT=50.1N)
.MODEL DR D (IS=213U RS=13.6 N=6.1)
.ENDS